US08445509B2
Production of ethyl 2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
A mixture of ethyl 2-(4-fluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (2.2 g, 8.9 mmol) and methyl trifluoromethanesulfonate (3 mL) was stirred at 80° C. for 40 min. The mixture was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=70/30→100/0) to give the title compound (1.6 g, 67%) as a pale-yellow solid.

reactant | ethyl 2-(4-fluorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 8.9 mmol, 2.2 g | FC1=CC=C(C=C1)N1NC=C(C1=O)C(=O)OCC | C12H11FN2O3
reactant | methyl trifluoromethanesulfonate | 3 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
product | ethyl 2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 1.6 g, 67% | FC1=CC=C(C=C1)N1N(C=C(C1=O)C(=O)OCC)C | C13H13FN2O3
